US05734067
Anhydrous tetrahydrofuran (36 ml) was added to triphenylphosphine ethyl bromide (12.3 g) prior to stirring at room temperature for 20 minutes. To the resulting mixture was added potassium tert-butoxide (4.5 g), for stirring at room temperature for 30 minutes. Then, 2,6-dimethoxy-4-hydroxybenzaldehyde (3.0 g) was added to the resulting mixture for stirring at room temperature for 2 hours. After the termination of the reaction, the resulting solution was partitioned with ethyl acetate and dilute hydrochloric acid, and the resulting ethyl acetate phase was washed in water and subsequently in a saturated sodium chloride solution and dried over anhydrous magnesium sulfate, to distill off the solvents under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent: hexane:ethyl acetate=2:1), followed by addition of a catalytic amount of platinum dioxide for hydrogenation, to recover 3,5-dimethoxy-4-propylphenol (1.8 g; yield of 55%). By 1H-NMR (90 MHz, CDCl3), the compound has the peaks shown below.

reactant | triphenylphosphine ethyl bromide | 12.3 g | C(C)Br.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 4.5 g | CC(C)([O-])C.[K+]
reactant | 2,6-dimethoxy-4-hydroxybenzaldehyde | 3.0 g | COC1=C(C=O)C(=CC(=C1)O)OC | C9H10O4
solvent | tetrahydrofuran | 36 ml | O1CCCC1 | C4H8O
product | 3,5-dimethoxy-4-propylphenol | 1.8 g, yield of 55% | COC=1C=C(C=C(C1CCC)OC)O | C11H16O3
